US04337259
2-Methoxybenzenethiol (5 g) was added to a solution of sodium hydroxide (2.85 g) in ethanol (50 ml) and the resulting mixture was treated with 2-picolyl chloride, hydrochloride (5.7 g) in ethanol (25 ml) at 0° C. After 16 hours at ambient temperature the mixture was filtered through kieselghur and evaporated. The residue was converted into the hydrochloride in ether with ethereal HCl solution and this was recrystallised from propan-2-ol/acetone to give 2-(((2-methoxyphenyl)thio)methyl)pyridine, hydrochloride (4.0 g) mp 141°-3° C. (Found: C, 58.5; H, 5.4; N, 4.9. C13H13NOS.HCl requires C, 58.3; H, 5.3; N, 5.2%).

reactant | 2-Methoxybenzenethiol | 5 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | sodium hydroxide | 2.85 g | [OH-].[Na+]
reactant | 2-picolyl chloride, hydrochloride | 5.7 g | Cl.N1=C(C=CC=C1)CCl
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(((2-methoxyphenyl)thio)methyl)pyridine, hydrochloride | 4.0 g, 5.2% | Cl.COC1=C(C=CC=C1)SCC1=NC=CC=C1 | InChI=1S/C13H13NOS.ClH/c1-15-12-7-2-3-8-13(12)16-10-11-6-4-5-9-14-11;/h2-9H,10H2,1H3;1H
